US07220862B2
3-(1-Benzyl-piperidin-4-yl)-8-methoxy-3,4-dihydro-1H-quinazolin-2-one
A stirred solution of (2-amino-6-methoxy-benzyl)-(1-benzyl-piperidin-4-yl)-amine (0.2 g, 0.62 mmol) in tetrahydrofuran (3 mL) at 0° C. was treated with carbonyl diimidazole (99 mg, 0.62 mmol). The reaction was stirred for 30 min at 0° C. and at reflux for 1 h. After cooling to room temperature, the solvent was evaporated and the residue purified by column to afford 150 mg (68%) of the desired product. LC/MS: tR=1.41 min, 352.30 (MH)+.

reactant | (2-amino-6-methoxy-benzyl)-(1-benzyl-piperidin-4-yl)-amine | 0.62 mmol, 0.2 g | NC1=C(CNC2CCN(CC2)CC2=CC=CC=C2)C(=CC=C1)OC | C20H27N3O
reactant | carbonyl diimidazole | 0.62 mmol, 99 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(1-Benzyl-piperidin-4-yl)-8-methoxy-3,4-dihydro-1H-quinazolin-2-one | 150 mg, 68% | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C(C=CC=C2C1)OC)=O | C21H25N3O2
